US09428509B2
6-(2-Chloro-4-(cyclopentyloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole
A solution of 6-(2,4-dichloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole (1 equiv), cyclopentanol (1.1 equiv), and sodium tert-butoxide (1 equiv) in 1,4-dioxane (0.22 M) was taken in a sealable flask. The reaction mixture was put under a nitrogen atmosphere, the sealable flask was sealed and the mixture was stirred at 70° C. for 3 h. The mixture was cooled to room temperature and concentrated to afford an oil, which was suspended in DCM and loaded onto a silica column (packed with hexane). The column was eluted with 0-30% ethyl acetate in hexane. The fractions containing product were combined and concentrated to dryness to give the target product as a light yellow oil (Yield: 88%) that solidified upon standing. MS (ESI) m/z 499.4 [M+1]+.

reactant | 6-(2,4-dichloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)Cl | C20H22Cl2N4O2Si
reactant | cyclopentanol | 1.1 equiv | C1(CCCC1)O | C5H10O
reactant | sodium tert-butoxide | 1 equiv | CC(C)([O-])C.[Na+]
reactant | hexane | CCCCCC | C6H14
solvent | 1,4-dioxane | 0.22 M | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-(2-Chloro-4-(cyclopentyloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole | Yield: 88% | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)OC2CCCC2 | C25H31ClN4O3Si
